US08247436B2
Step 2: 3-Amino-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-propyl)-amide
3-(2,5-Dimethyl-pyrrol-1-yl)-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-propyl)-amide (350 mg, 0.823 mmol) was dissolved in EtOH (14 ml) and water (7 ml). Hyroxylamine hydrochloride (572 mg, 8.23 mmol) was added followed by TEA (167 mg, 1.646 mmol) and the mixture was heated at reflux overnight. After cooling the RT, the mixture was purified by reverse phase chromatography eluting with MeOH; water (0.1% TFA) to afford the title compound as a pale yellow solid; LC-MS Rt=4.20 min[M+H]+ 348.2 (Method 10minLC_v002)

reactant | 3-(2,5-Dimethyl-pyrrol-1-yl)-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-propyl)-amide | 0.823 mmol, 350 mg | FC(C(CNC(=O)C1=NC(=C(C=C1N1C(=CC=C1C)C)C(F)(F)F)OC)O)(F)F | C17H17F6N3O3
reactant | Hyroxylamine hydrochloride | 8.23 mmol, 572 mg | Cl.NO
solvent | EtOH | 14 ml | CCO | C2H6O
solvent | water | 7 ml | O | H2O
product | 3-Amino-6-methoxy-5-trifluoromethyl-pyridine-2-carboxylic acid (3,3,3-trifluoro-2-hydroxy-propyl)-amide | FC(C(CNC(=O)C1=NC(=C(C=C1N)C(F)(F)F)OC)O)(F)F | C11H11F6N3O3
